US07985755B2
5-[1-(2,3-Difluorobenzyl)piperidin-4-ylmethoxy]quinazoline-2,4-diamine (Example-012).
The benzylamine was obtained by reacting 5-(piperidin-4-ylmethoxy)quinazoline-2,4-diamine (50 mg; 0.18 mmol) and 2,3-difluorobenzyl bromide (77 mg; 0.37 mmol) via Method BB to yield 38 mg. (53% yield). 1HNMR (400 MHz, DMSO-d6) δ 8.26 (br s, 1H), 7.8 (br s, 1H), 7.55 (t, J=8.4 Hz, 1H), 7.33 (m, 1H), 7.2 (m, 2H), 6.99 (br s, 2H), 6.9 (d, J=8 Hz, 1H), 6.81 (d, J=8.0 Hz, 2H), 4.07 (d, J=6.4 Hz, 2H), 3.59 (s, 2H), 2.85 (m, 2H), 2.04 (t, J=11.2 Hz, 2H), 1.9 (m, 1H), 1.73 (d, J=10.4 Hz, 2H), 1.33 (m, 2H). MS m/z (ESI) 400 (M+H)+.

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | 5-(piperidin-4-ylmethoxy)quinazoline-2,4-diamine | 0.18 mmol, 50 mg | N1CCC(CC1)COC1=C2C(=NC(=NC2=CC=C1)N)N | C14H19N5O
reactant | 2,3-difluorobenzyl bromide | 0.37 mmol, 77 mg | FC1=C(CBr)C=CC=C1F | C7H5BrF2
product | 5-[1-(2,3-Difluorobenzyl)piperidin-4-ylmethoxy]quinazoline-2,4-diamine | 53% yield | FC1=C(CN2CCC(CC2)COC2=C3C(=NC(=NC3=CC=C2)N)N)C=CC=C1F | C21H23F2N5O
